US04031227
To 10.2 g. of α-methylthio-4-trifluoromethyl-o-toluidine predissolved in 50 ml. of methylene chloride and cooled to -38° C. is added dropwise, over 40 minutes, a solution of 6.2 g. of N-chlorosuccinimide predissolved in 250 ml. of methylene chloride, while the temperature is maintained between -28° and -38° C. After an additional 8 minutes, 13.3 ml. of a 15% aqueous sodium hydroxide solution is added, the cold bath is removed and the reaction mixture allowed to warm to 5° C. To the reaction mixture is added 100 ml. of water, the mixture is shaken, and the phases are separated. The methylene chloride layer is cooled to -20° C. and treated with a solution of 9.7 g. of m-chloroperoxybenzoic acid predissolved in 150 ml. of methylene chloride, added dropwise over 10 minutes. The cold bath is removed and the reaction mixture stirred for 20 minutes, after which time, it is washed successively with an aqueous solution of sodium sulfite and sodium bicarbonate and a saturated aqueous solution of sodium bicarbonate. The phases are separated and the methylene chloride layer is dried, evaporated in vacuo to dryness, and the residue recrystallized from chloroform/petroleum ether to yield 2-methyl-5-trifluoromethyl-2H,3H-2,1-benzisothiazole-S-oxide, m.p. 151°-154° C.

reactant | α-methylthio-4-trifluoromethyl-o-toluidine | CSCC=1C(N)=CC=C(C1)C(F)(F)F | C9H10F3NS
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-methyl-5-trifluoromethyl-2H,3H-2,1-benzisothiazole-S-oxide | CS1(NC2=C(C1)C=C(C=C2)C(F)(F)F)=O | C9H10F3NOS
